US08877780B2
TEA (0.28 g, 2.8 mmol) was added to a mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) and -(trifluoromethylthio)phenyl isothiocyanate (0.33 g, 1.4 mmol) in acetonitrile (30 mL) at 0° C. The mixture stirred at 0° C. for 16 h, and then 4% aqueous HCl solution (30 mL) was added. The solid precipitate was filtered and dried in vacuo providing 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-trifluoromethylsulfanyl-phenyl)-thiourea as a white solid (0.33 g, 48% yield); mp 229-231° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 4.08 (98.31%); 1H NMR (DMSO-d6) δ 1.98-2.04 (m, 1H), 2.32-2.47 (m, 1H), 2.57-2.63 (m, 1H), 2.86-2.98 (m, 1H), 4.32 (d, 1H, J=17.4 Hz), 4.46 (d, 1H, J=17.4 Hz), 4.89 (d, 2H, J=5.4 Hz), 5.12 (dd, 1H, J=13.2 Hz, J=5.1 Hz), 7.48 (d, 1H, J=8.4 Hz), 7.56 (s, 1H), 7.64-7.73 (m, 5H), 8.60 (s, 1H), 10.02 (s, 1H), 10.99 (s, 1H); 13C NMR (DMSO-d6) δ 22.5, 31.2, 47.0, 47.1, 51.6, 116.2, 122.2, 122.8, 122.9, 127.2, 129.6 (q, J=306), 130.5, 136.8, 142.3, 142.7, 143.0, 167.9, 171.0, 172.8, 180.8; LCMS: MH=509; Anal. Calcd for C22H9F3N4O3S2+0.1H2O: C, 51.78; H, 3.79; N, 10.98. Found: C, 51.55; H, 3.55; N, 10.85.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | (trifluoromethylthio)phenyl isothiocyanate | 1.4 mmol, 0.33 g | FC(SC1=C(C=CC=C1)N=C=S)(F)F | C8H4F3NS2
reactant | HCl | 30 mL | Cl | ClH
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-trifluoromethylsulfanyl-phenyl)-thiourea | 0.33 g, 48% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=S)NC1=CC=C(C=C1)SC(F)(F)F)=O)=O | C22H19F3N4O3S2
